US08895547B2
(S)-3-[6,6-Dimethyl-4,4-dioxo-5-(4-piperidin-4-ylphenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]-3-(2-fluorophenyl)propan-1-ol
A solution of 1-Boc-4-(4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl}phenyl)-3,6-dihydro-2H-pyridine (575 mg) in methanol (25 ml) was admixed with palladium on charcoal (10%, 260 mg) and stirred in a hydrogen atmosphere for 1.5 h. The mixture was filtered and concentrated. The residue was dissolved in 5 ml of dichloromethane, and 1 ml of trifluoroacetic acid was added. After stirring at room temperature for 1 h, the solvent was removed under reduced pressure and TFA ester formed was cleaved by treatment with 1 N HCl. Extraction with ethyl acetate gave the crude product (91%), which was used without further purification.

reactant | 1-Boc-4-(4-{2-[(S)-3-(tert-butyldimethylsilanyloxy)-1-(2-fluorophenyl)propylamino]-6,6-dimethyl-4,4-dioxo-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-5-yl}phenyl)-3,6-dihydro-2H-pyridine | 575 mg | C(=O)(OC(C)(C)C)N1CCC(=CC1)C1=CC=C(C=C1)C1S(N=C(OC1(C)C)N[C@@H](CCO[Si](C)(C)C(C)(C)C)C1=C(C=CC=C1)F)(=O)=O | C36H52FN3O6SSi
reactant | hydrogen | [H][H] | H2
reactant | HCl | 1 N | Cl | ClH
solvent | methanol | 25 ml | CO | CH4O
catalyst | palladium on charcoal | 260 mg | [Pd] | Pd
product | (S)-3-[6,6-Dimethyl-4,4-dioxo-5-(4-piperidin-4-ylphenyl)-5,6-dihydro-4H-4lambda*6*-[1,4,3]oxathiazin-2-ylamino]-3-(2-fluorophenyl)propan-1-ol | 91% | CC1(C(S(N=C(O1)N[C@@H](CCO)C1=C(C=CC=C1)F)(=O)=O)C1=CC=C(C=C1)C1CCNCC1)C | C25H32FN3O4S
